US06197783B1
A solution of 1 g of 2,3-dimethyl-8-pivaloylaminoimidazo[1,2-a]pyridine in 40 ml of diethyl ether is treated dropwise at −78° C. with 8 ml of a 1.5 molar solution of t-butyllithium in n-pentane. The mixture is stirred for 15 min and then treated with 3.3 ml of tri-n-butyltin chloride. The internal temperature is then allowed to rise to room temperature, the mixture is poured onto ice water and extracted three times with ethyl acetate, the combined extracts are washed with a little water and dried over potassium carbonate, the solvent is stripped off in vacuo and the oil obtained is chromatographed on silica gel using ethyl acetate/petroleum ether (1:3) as an eluent. 1.3 g of 7-tributylstannyl-2,3-dimethyl-8-pivaloylaminoimidazo[1,2-a]pyridine are obtained as a viscous oil.

reactant | 2,3-dimethyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 1 g | CC=1N=C2N(C=CC=C2NC(C(C)(C)C)=O)C1C | C14H19N3O
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | tri-n-butyltin chloride | 3.3 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | n-pentane | CCCCC | C5H12
product | 7-tributylstannyl-2,3-dimethyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 1.3 g | C(CCC)[Sn](C1=C(C=2N(C=C1)C(=C(N2)C)C)NC(C(C)(C)C)=O)(CCCC)CCCC | InChI=1S/C14H18N3O.3C4H9.Sn/c1-9-10(2)17-8-6-7-11(12(17)15-9)16-13(18)14(3,4)5;3*1-3-4-2;/h6,8H,1-5H3,(H,16,18);3*1,3-4H2,2H3;
